US07915270B2
7-Phenyl-1-(5-(3-(2,2,2-trifluoroacetyl)phenyl)oxazol-2-yl)heptan-1-one
1-(3-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)phenyl)-2,2,2-trifluoroethanone. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (37 mg, 0.056 mmol) and 1-(3-chlorophenyl)-2,2,2-trifluoroethanone following General Procedure B. Flash chromatography (5-20% EtOAc/hexanes) yielded the title compound as a clear oil (26 mg, 87%): 1H NMR (CDCl3, 600 MHz) δ 8.31 (s, 1H), 8.01-7.94 (m, 2H), 7.61 (t, 1H, J=7.2 Hz), 7.38 (s, 1H), 7.27-7.24 (m, 2H), 7.16-7.14 (m, 3H), 4.84 (t, 1H, J=6.0 Hz), 2.58 (t, 2H, J=7.5 Hz), 1.95-1.88 (m, 2H), 1.64-1.55 (m, 2H), 1.37-1.34 (m, 6H), 0.90 (s, 9H), 0.10 (s, 3H), 0.00 (s, 3H); 13C NMR (CDCl3, 150 MHz) δ 181.0 (d, J=35 Hz), 166.7, 150.2, 143.6, 131.5, 130.7, 130.4, 130.2, 129.2, 129.1, 129.0, 126.4, 126.2, 124.0, 117.7 (d, J=289 Hz), 69.5, 37.2, 36.8, 32.3, 30.0, 26.6, 26.6, 26.0, 19.1, −4.1, −4.2.

reactant | 1-(3-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)phenyl)-2,2,2-trifluoroethanone | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C=1C=C(C=CC1)C(C(F)(F)F)=O | C30H38F3NO3Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.056 mmol, 37 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 1-(3-chlorophenyl)-2,2,2-trifluoroethanone | ClC=1C=C(C=CC1)C(C(F)(F)F)=O | C8H4ClF3O
product | 7-Phenyl-1-(5-(3-(2,2,2-trifluoroacetyl)phenyl)oxazol-2-yl)heptan-1-one | 26 mg, 87% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC(=CC=C1)C(C(F)(F)F)=O | C24H22F3NO3
